US08110122B2
[Step 3] Synthesis of 9-(4′-bromobiphenyl-4-yl)-10-phenylanthracene
Into a 100 mL three-neck flask were put 2.8 g (7.2 mmol) of 9-iodo-10-phenylanthracene and 1.5 g (7.2 mmol) of 4′-bromobiphenyl-4-boronic acid, and the atmosphere in the flask was replaced with nitrogen. To the mixture, 40 mL of toluene and 10 mL (2.0 mol/L) of a sodium carbonate aqueous solution were added. The mixture was stirred under reduced pressure to be degassed. After the degassing, 120 mg (0.10 mmol) of tetrakis(triphenylphosphine)palladium(0) was added to the mixture. The mixture was stirred at 90° C. for 4 hours. After the stirring, about 50 mL of toluene was added to the mixture. The mixture was subjected to suction filtration through alumina, Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The solid obtained by condensation of the obtained filtrate was purified by high-performance liquid chromatography (the mobile phase: chloroform) to give a light yellow solid. The obtained solid was recrystallized with chloroform/hexane to give 1.4 g of a light yellow powdered solid, which was the object of the synthesis, in a yield of 40%.

reactant | 9-iodo-10-phenylanthracene | 7.2 mmol, 2.8 g | IC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13I
reactant | 4′-bromobiphenyl-4-boronic acid | 7.2 mmol, 1.5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C12H10BBrO2
reactant | sodium carbonate | 2.0 mol/L, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.10 mmol, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | about 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 9-(4′-bromobiphenyl-4-yl)-10-phenylanthracene | 1.4 g, yield of 40% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C32H21Br
